US04851526
1-[4-[[1-[2-(3,4-Dimethoxyphenyl)ethyl]azetidin-3-yl]-methyl]phenyl]imidazole
In a manner similar to Example 28, react [1-[2-(3,4-dimethoxyphenyl)ethyl]azetidin-3-yl][4-(1H-imidazol-1-yl)-phenyl]methanone with potassium hydroxide and hydrazine in diethylene glycol to obtain the title compound.

reactant | [1-[2-(3,4-dimethoxyphenyl)ethyl]azetidin-3-yl][4-(1H-imidazol-1-yl)-phenyl]methanone | COC=1C=C(C=CC1OC)CCN1CC(C1)C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C23H25N3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine | NN | H4N2
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 1-[4-[[1-[2-(3,4-Dimethoxyphenyl)ethyl]azetidin-3-yl]-methyl]phenyl]imidazole | COC=1C=C(C=CC1OC)CCN1CC(C1)CC1=CC=C(C=C1)N1C=NC=C1 | C23H27N3O2
